US08871753B2
Step A: (2E)-1,3-bis(3-Nitrophenyl)prop-2-en-1-one
3-Nitroacetophenone (2.23 g, 0.0135 mol) [Aldrich] and 3-nitrobenzaldehyde (2.04 g, 0.0135 mol) [Aldrich] were dissolved in methanol (20 mL), and sodium hydroxide (1.3 g, 0.032 mol) was added. The mixture was stirred for 16 hours. The solid formed was filtered and washed with water to give the desired product (3.6 g, 89%). LCMS for C15H11N2O5 (M+H)+: m/z=299.1.

reactant | 3-Nitroacetophenone | 0.0135 mol, 2.23 g | CC(=O)C1=CC(=CC=C1)[N+](=O)[O-] | C8H7NO3
reactant | 3-nitrobenzaldehyde | 0.0135 mol, 2.04 g | [N+](=O)([O-])C=1C=C(C=O)C=CC1 | C7H5NO3
reactant | sodium hydroxide | 0.032 mol, 1.3 g | [OH-].[Na+]
solvent | methanol | 20 mL | CO | CH4O
product | (2E)-1,3-bis(3-Nitrophenyl)prop-2-en-1-one | 3.6 g, 89% | [N+](=O)([O-])C=1C=C(C=CC1)C(\C=C\C1=CC(=CC=C1)[N+](=O)[O-])=O | C15H10N2O5
